US04513002
A solution of 446.4 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid in 2.2 l of tetrahydrofuran, stirred under argon and cooled with ice-water, is treated portionwise with 87.0 g of sodium borohydride. The mixture is stirred for 30 minutes and subsequently a solution of 290 ml of freshly distilled boron trifluoride etherate in 300 ml of dry tetrahydrofuran is added dropwise thereto over a period of 90 minutes at a temperature of 10°. The mixture is stirred at 0° for 1 hour and at room temperature for 16 hours, cooled to 0° and treated dropwise over a period of 30 minutes with 400 ml of methanol. The mixture is stirred further at 0° for 15 minutes and at room temperature for 15 minutes and the solution is subsequently evaporated in vacuo. The residue is poured into a mixture of ice and 1 l of water, extracted three times with 2 l of ether each time and the organic extracts are washed successively with 1 l of 1.5N hydrochloric acid, with 1 l of 1.5N potassium bicarbonate solution and with 1 l of water. The organic phases are combined, dried over magnesium sulfate and evaporated. There is obtained 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol in the form of an oil which crystallizes slowly upon standing.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid | 446.4 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC(=O)O | C17H16O2
reactant | sodium borohydride | 87.0 g | [BH4-].[Na+]
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | methanol | 400 ml | CO | CH4O
solvent | tetrahydrofuran | 2.2 l | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-ethanol | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CCO | C17H18O
